US05783586
To a solution of 4,4'-di(2-quinolylmethoxy)benzophenone (992 mg, 2 mmol) in THF (20 mL) at -78° C. was added methylmagnesium bromide (3M solution in ethyl ether, 0.8 mL, 2.4 mmol) and the resulting mixture was stirred at room temperature for 12 hours. The mixture was then quenched with saturated aqueous NH4Cl and extracted with ethyl acetate. The extract was washed with water, brine, dried with anhydrous MgSO4 and concentrated in vacuo. The residue was chromatographed (silica gel, methylene chloride-ethyl acetate 4:1) to afford 920 mg of 1,1-bis(4-(2-quinolylmethoxy)phenyl)ethanol.

reactant | 4,4'-di(2-quinolylmethoxy)benzophenone | 2 mmol, 992 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C(=O)C2=CC=C(C=C2)OCC2=NC3=CC=CC=C3C=C2)C=C1 | C33H24N2O3
reactant | methylmagnesium bromide | 2.4 mmol, 3M, 0.8 mL | C[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,1-bis(4-(2-quinolylmethoxy)phenyl)ethanol | 920 mg | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C)(O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C34H28N2O3
